US07704997B1
2-(2-Fluoropyridin-3-yloxy)nicotinonitrile
The title compound was synthesized by General Procedure 9 using 2-fluoro-3-hydroxypyridine. 1H NMR (DMSO-d6. 400 MHz) δ 7.41 (dd, 1H, J=5.0 Hz, J=7.6 Hz), 7.51 (ddd, 1H, J=1.1 Hz, J=4.9 Hz, J=7.8 Hz), 8.09 (ddd, 1H, J=1.7 Hz, J=7.8 Hz, J=9.7 Hz), 8.19 (td, 1H, J=1.6 Hz, J=4.9 Hz), 8.42 (dd, 1H, J=1.9 Hz, J=5.0 Hz), 8.50 (dd, 1H, J=1.9 Hz, J=7.6 Hz); RP-HPLC (Hypersil®1-100 C18, 5 μm, 100 Å, 10 cm; 5%-100% acetonitrile-0.1M ammonium acetate over 5 min. 2 mL/min), then 100% acetonitrile isocratic 1 minutes, Rt 3.62 min.

reactant | 2-fluoro-3-hydroxypyridine | FC1=NC=CC=C1O | C5H4FNO
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
reactant | acetonitrile | C(C)#N | C2H3N
reactant | acetonitrile | 0.1M | C(C)#N | C2H3N
product | 2-(2-Fluoropyridin-3-yloxy)nicotinonitrile | FC1=NC=CC=C1OC1=C(C#N)C=CC=N1 | C11H6FN3O
